US07101878B1
To a solution of 5-[(3,8,8-trimethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furoyl chloride (10 eq, 0.32 mmol, 0.2M) in 2 mL ethyl acetate, the 2,4,6 trimethoxy aniline mono HCl salt (10 eq, 0.32 mmol) was added. Triethyl amine (excess) was added to this mixture and stirred overnight. The crude product was dried under vacuo and purified through plug column chromatography (1:100 crude mass/silicagel ratio) by eluting with 20 and 30 percent ethyl acetate/hexane solution. In some cases, the regio-isomers were separated by recrystallization in twenty five percent ethyl acetate/hexanes (1 g/75 mL compound/volume) to yield N-(2,4,6-trimethoxylphenyl)-5-[(3,8,8-trimethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furamide (120 mgs, 82% yield). 1H NMR (CDCl3) 7.28 ppm (1H, broad), 7.12 (1H, s), 7.08 (1H, 3=3.40 Hz, d), 6.89 (1H, s), 6.19 (2H, s), 6.00 (1H, J=3.40 Hz, d), 3.97 (2H, s), 3.83 (3H, s), 3.82 (6H, s) 2.73 (2H, J=6.05 Hz, t), 2.25 (3H, s), 1.84-1.76(2H, multiplet), 1.69-1.63 (2H, multiplet), 1.59 (3H, s), 1.26(6H, s) elemental: expected C(72.55), H(7.18), N(3.02); actual C(72.67), H(7.22), N(2.98).

reactant | 5-[(3,8,8-trimethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furoyl chloride | 0.32 mmol, 0.2M, 10 eq | CC=1C(=CC=2C(CCCC2C1)(C)C)CC1=CC=C(O1)C(=O)Cl | C19H21ClO2
reactant | 2,4,6 trimethoxy aniline mono HCl salt | 0.32 mmol, 10 eq | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | Triethyl amine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | N-(2,4,6-trimethoxylphenyl)-5-[(3,8,8-trimethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furamide | 120 mgs, 82% yield | O(C)C1=C(C(=CC(=C1)OC)OC)NC(=O)C=1OC(=CC1)CC1=CC=2C(CCCC2C=C1C)(C)C | C28H33NO5
